US04517119
(e) N-Benzyloxycarbonyl-β-tert-butyl-L-aspartyl-leucyl-Nε -tert-butyloxycarbonyl-L-lysine, (IV)
A solution of Z-Asp(OtBu)-OSu (115.6 g; 0.275 mol) in DMF (1.16 L) was stirred at 0° in a 3 L, 3-necked round bottom flask fitted with a mechanical stirrer and thermometer. The H-Leu-Lys(Boc)-OH (89.86 g; 0.250 mol) was added followed by Et3N (35.2 mL; 0.25 mol). The reaction mixture was stirred at 0° for 0.5 h and at 25° for 1.5 h. Additional Et3N (17 mL) was added (to maintain pH 8) and the reaction mixture stirred at 25° for 20 h. The reaction mixture was evaporated, dissolved in EtOAc (3 L), washed with 1M citric acid (3×1 L), H2O (3×1 L), dried (MgSO4) and evaporated in vacuo. The residual paste was dissolved in anhydrous ether (5 L) and stirred magnetically while DCHA (53.5 mL; 0.268 mol) was added slowly. After standing in the cold room (20 h) the white salt was collected and washed with anhydrous ether (2×0.5 L) and petroleum ether (2×0.5 L). Yield: 177 g (84%); m.p. 173°-174°; [α]D25 -12.57° (c 1, MeOH).

reactant | Z-Asp(OtBu)-OSu | 0.275 mol, 115.6 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C20H24N2O8
reactant | H-Leu-Lys(Boc)-OH | 0.250 mol, 89.86 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C17H33N3O5
reactant | Et3N | 0.25 mol, 35.2 mL | CCN(CC)CC | C6H15N
reactant | Et3N | 17 mL | CCN(CC)CC | C6H15N
reactant | DCHA | 0.268 mol, 53.5 mL | C1CCC(CC1)NC2CCCCC2 | C12H23N
solvent | DMF | 1.16 L | CN(C)C=O | C3H7NO
product | N-Benzyloxycarbonyl-β-tert-butyl-L-aspartyl-leucyl-Nε -tert-butyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C(O)=O)C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C33H52N4O10
